US09108938B2
2-chloro-N-[2-(4,4-difluoro-1-piperidyl)-2-(6-fluoro-3-pyridyl)ethyl]benzamide
From 2-chlorobenzoic acid and 2-(6-fluoro-3-pyridyl)-2-(4,4-difluoro-piperidin-1-yl)-ethylamine.

reactant | 2-chlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | 2-(6-fluoro-3-pyridyl)-2-(4,4-difluoro-piperidin-1-yl)-ethylamine | FC1=CC=C(C=N1)C(CN)N1CCC(CC1)(F)F | C12H16F3N3
product | 2-chloro-N-[2-(4,4-difluoro-1-piperidyl)-2-(6-fluoro-3-pyridyl)ethyl]benzamide | ClC1=C(C(=O)NCC(C=2C=NC(=CC2)F)N2CCC(CC2)(F)F)C=CC=C1 | C19H19ClF3N3O
